US07935699B2
In a flask containing N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2(R)-(4-methanesulfonyl-3-methyl-phenyl)-propionamide (300 mg, 0.56 mmol) was added ethanol (10 mL) and concentrated hydrochloric acid (seven drops) and was stirred at 25° C. for 2 h. It was then diluted with ethyl acetate (100 mL) and washed with water (1×30 mL) and saturated aqueous brine solution (1×30 mL). The organic layer was then dried over sodium sulfate and absorbed onto silica gel (2.5 g) and purified on Biotage Flash chromatography system (40S column, silica gel, 5% methanol/ethyl acetate) afforded 3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-2(R)-(4-methanesulfonyl-3-methyl-phenyl)-propionamide (194 mg, 83%) as a white foam: [α]28589=−19.0° (c=0.20, methanol); ES-HRMS m/e calcd for C21H29N3O4S (M+H)+ 420.1952, observed 420.1949; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.03-1.18 (m, 2H, CH2), 1.37-1.80 (m, 8H, 4×CH2), 2.06-2.17 (m, 1H, CH) ArCH3), 3.16 (s, 3H, SO2CH3), 3.66 (q, J=5.6 Hz, 2H, OCH2), 3.85 (dd, J=8.8 Hz, J=5.7 Hz, 1H, ArCH), 3.98 (t, J=5.6 Hz, 2H, NCH2), 4.82 (t, J=5.6 Hz, 1H, OH), 6.40 (d, J=2.2 Hz, 1H, Ar), 7.41-7.46 (m, 2H, Ar), 7.52 (d, J=2.2 Hz, 1H, Ar), 7.83 (d, Jo=8.5 Hz, 1H, Ar), 10.72 (s, 1H, NH).

reactant | N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2(R)-(4-methanesulfonyl-3-methyl-phenyl)-propionamide | 0.56 mmol, 300 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C)=O)(C)C | C27H43N3O4SSi
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | seven drops | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-2(R)-(4-methanesulfonyl-3-methyl-phenyl)-propionamide | 194 mg, 83% | C1(CCCC1)C[C@@H](C(=O)NC1=NN(C=C1)CCO)C1=CC(=C(C=C1)S(=O)(=O)C)C | C21H29N3O4S
